US07915281B2
Under a nitrogen atmosphere, a solution of 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine (1.64 g, 3.90 mmol) in anhydrous dichloromethane (50 mL) was cooled to 6° C., and a solution of trichloroacetyl isocyanate (0.51 mL, 4.29 mmol) in dichloromethane (5 mL) was added dropwise. The solution was stirred for 30 minutes, and then the solvent was removed under reduced pressure. The residue was treated with sodium methoxide in methanol (10 mL of a 25% w/w solution) and methanol (40 mL). The resulting mixture was stirred for 18 hours at room temperature. A precipitate was present and was isolated by filtration, washed with methanol and diethyl ether, and dried under high vacuum at 80° C. for 18 hours to provide 0.999 g of 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine as a white solid, mp 190.0-191.0° C.

reactant | 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-5-oxido-1H-imidazo[4,5-c][1,5]naphthyridine | 3.90 mmol, 1.64 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=CC=NC23)[O-])N1)CC1=CC(=NO1)C1=CC=C(C=C1)F | C22H18FN5O3
reactant | trichloroacetyl isocyanate | 4.29 mmol, 0.51 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(ethoxymethyl)-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine | 0.999 g | C(C)OCC=1N(C2=C(C(=NC=3C=CC=NC23)N)N1)CC1=CC(=NO1)C1=CC=C(C=C1)F | C22H19FN6O2
